US06511974B1
{4-[1-(4′-Trifluoromethyl-biphenyl-2-carbonyl)-1H-pyrazol-3-yl]-phenyl}-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 32, employing [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.71 g) in dry pyridine (20 ml) and 4′-trifluoromethyl-2-biphenylcarbonyl chloride (0.71 g), the title compound (0.59 g) was obtained as an amorphous solid, MS, m/z: 602 (M)+.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.71 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | 4′-trifluoromethyl-2-biphenylcarbonyl chloride | 0.71 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)Cl)(F)F | C14H8ClF3O
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | {4-[1-(4′-Trifluoromethyl-biphenyl-2-carbonyl)-1H-pyrazol-3-yl]-phenyl}-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.59 g | FC(C1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2)(F)F | C36H25F3N4O2
